data/mechanism_extracts/OrgChemFront/10.1039_d3qo00599b.json
{"doi": "10.1039_d3qo00599b", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Direct electrochemical difluorination and azo-fluorination of gem-difluorostyrenes using Et3N·3HF as fluoride source to access perfluoroalkyl aromatics", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "anion_initiated"], "electrochemical_role": "Anodic oxidation of gem-difluorostyrene to a radical cation, then a second anodic oxidation of the benzyl radical to a benzyl cation; cathode reduces protons to H2", "key_intermediates": [{"name": "radical cation of gem-difluorostyrene (I)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical after F- addition at C1 (II)", "smiles": null, "role": "reactive"}, {"name": "benzyl cation (III)", "smiles": null, "role": "reactive"}, {"name": "trifluoromethyl benzylic product after second F- addition (3)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes the gem-difluorostyrene to a radical cation (I); fluoride from Et3N·3HF attacks C1 to give a benzylic radical (II); a second anodic oxidation furnishes a benzyl cation (III), which is trapped by a second fluoride (or other nucleophile such as azole/alcohol) to deliver the difunctionalized product; protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "alkyl-substituted gem-difluoroalkene (11, non-conjugated)", "smiles": null, "purpose": "other", "observation": "No product 12 formed, indicating a conjugated aryl group is essential to enable substrate oxidation"}, {"name": "controlled-potential electrolysis at 1.05 V vs SCE (below oxidation onset)", "smiles": null, "purpose": "redox_probe", "observation": "No product 3a at 1.05 V; 9% at 1.30 V, supporting oxidation of the gem-difluorostyrene as the initiating step"}, {"name": "O2 (radical trapping under O2 atmosphere)", "smiles": "O=O", "purpose": "radical_trap", "observation": "Hydroperoxide/methoxy adduct 13 (MW 280.27) detected by GC-MS, consistent with a benzyl radical intermediate"}, {"name": "4-vinylbiphenyl (non-fluorinated styrene)", "smiles": null, "purpose": "other", "observation": "Easily oxidized but no fluorination occurs, indicating the gem-difluoro motif is required for productive F- capture"}, {"name": "TMSCN as competing nucleophile", "smiles": "C[Si](C)(C)C#N", "purpose": "intermediate_trap", "observation": "Fluorocyanation product 8 detected by GC-MS, consistent with cation interception by CN-"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "redox_probe", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Mechanism additionally supported by selective cathodic hydrodefluorination/deuteration of the benzyl C-F bond of product 3g (giving 9/10 in 83%/81%), demonstrating reversible electrochemical handling of the C-F bond. No DFT or KIE studies reported."}
